US08134001B2
Preparation of intermediate 2-(4-cyanophenyloxy)-5-fluoro-benzaldehyde
To stirred solution of 4-cyanophenol (Aldrich, 5.00 g, 42 mmol) in DMF (100 mL), potassium carbonate (63 mmol) and 2-4, difluoro-benzaldehyde (Aldrich, 5.97 g, 42 mmol) were added and the mixture was stirred at 90° C. overnight. The mixture was cooled to room temperature and poured into water. The solid was filtered and dried to give a pale yellow solid. 5.2 g MS (H+), 242.

reactant | 4-cyanophenol | 42 mmol, 5.00 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 63 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | difluoro-benzaldehyde | 42 mmol, 5.97 g | FC=1C(=C(C=O)C=CC1)F | C7H4F2O
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(4-cyanophenyloxy)-5-fluoro-benzaldehyde | C(#N)C1=CC=C(C=C1)OC1=C(C=O)C=C(C=C1)F | C14H8FNO2
